*** AUTOGENERATED by gen_mac.py ***

* Subcircuit definition for my_mac
.subckt my_mac D<0><0> D<0><1> D<0><2> D<0><3> D<1><0> D<1><1> D<1><2> D<1><3> W<0><0> W<0><1> W<0><2> W<0><3> W<1><0> W<1><1> W<1><2> W<1><3> outn outp vdd vss z_debug

* Switch Models
.model MUL_SW      SW(Ron=1 Roff=1000 Vt=1.7999999999999998 Vh=-0.1)
.model MUL_SW_INV  SW(Ron=1000 Roff=1 Vt=1.7999999999999998 Vh=-0.1)
.model DIFF_SW     SW(Ron=1 Roff=1000 Vt=1.2)
.model DIFF_SW_INV SW(Ron=1000 Roff=1 Vt=1.2)

* One bit multiply
Emul_vcvs_<0><0><0> mul_temp_ideal<0><0><0> d<0><0> W<0><0> vss 1
Rmul_nonideal<0><0><0> mul_temp_ideal<0><0><0> mul_temp<0><0><0> 1
Smul_sw_<0><0><0>     vss mul<0><0><0> mul_temp<0><0><0> vss MUL_SW
Smul_sw_inv_<0><0><0> vdd mul<0><0><0> mul_temp<0><0><0> vss MUL_SW_INV
Cmul_temp_<0><0><0> mul_temp<0><0><0> vss 100p
Cmul_<0><0><0> mul<0><0><0> vss 100p
Emul_vcvs_<0><0><1> mul_temp_ideal<0><0><1> d<0><0> W<0><1> vss 1
Rmul_nonideal<0><0><1> mul_temp_ideal<0><0><1> mul_temp<0><0><1> 1
Smul_sw_<0><0><1>     vss mul<0><0><1> mul_temp<0><0><1> vss MUL_SW
Smul_sw_inv_<0><0><1> vdd mul<0><0><1> mul_temp<0><0><1> vss MUL_SW_INV
Cmul_temp_<0><0><1> mul_temp<0><0><1> vss 100p
Cmul_<0><0><1> mul<0><0><1> vss 100p
Emul_vcvs_<0><0><2> mul_temp_ideal<0><0><2> d<0><0> W<0><2> vss 1
Rmul_nonideal<0><0><2> mul_temp_ideal<0><0><2> mul_temp<0><0><2> 1
Smul_sw_<0><0><2>     vss mul<0><0><2> mul_temp<0><0><2> vss MUL_SW
Smul_sw_inv_<0><0><2> vdd mul<0><0><2> mul_temp<0><0><2> vss MUL_SW_INV
Cmul_temp_<0><0><2> mul_temp<0><0><2> vss 100p
Cmul_<0><0><2> mul<0><0><2> vss 100p
Emul_vcvs_<0><0><3> mul_temp_ideal<0><0><3> d<0><0> W<0><3> vss 1
Rmul_nonideal<0><0><3> mul_temp_ideal<0><0><3> mul_temp<0><0><3> 1
Smul_sw_<0><0><3>     vss mul<0><0><3> mul_temp<0><0><3> vss MUL_SW
Smul_sw_inv_<0><0><3> vdd mul<0><0><3> mul_temp<0><0><3> vss MUL_SW_INV
Cmul_temp_<0><0><3> mul_temp<0><0><3> vss 100p
Cmul_<0><0><3> mul<0><0><3> vss 100p
Emul_vcvs_<0><1><0> mul_temp_ideal<0><1><0> d<0><1> W<0><0> vss 1
Rmul_nonideal<0><1><0> mul_temp_ideal<0><1><0> mul_temp<0><1><0> 1
Smul_sw_<0><1><0>     vss mul<0><1><0> mul_temp<0><1><0> vss MUL_SW
Smul_sw_inv_<0><1><0> vdd mul<0><1><0> mul_temp<0><1><0> vss MUL_SW_INV
Cmul_temp_<0><1><0> mul_temp<0><1><0> vss 100p
Cmul_<0><1><0> mul<0><1><0> vss 100p
Emul_vcvs_<0><1><1> mul_temp_ideal<0><1><1> d<0><1> W<0><1> vss 1
Rmul_nonideal<0><1><1> mul_temp_ideal<0><1><1> mul_temp<0><1><1> 1
Smul_sw_<0><1><1>     vss mul<0><1><1> mul_temp<0><1><1> vss MUL_SW
Smul_sw_inv_<0><1><1> vdd mul<0><1><1> mul_temp<0><1><1> vss MUL_SW_INV
Cmul_temp_<0><1><1> mul_temp<0><1><1> vss 100p
Cmul_<0><1><1> mul<0><1><1> vss 100p
Emul_vcvs_<0><1><2> mul_temp_ideal<0><1><2> d<0><1> W<0><2> vss 1
Rmul_nonideal<0><1><2> mul_temp_ideal<0><1><2> mul_temp<0><1><2> 1
Smul_sw_<0><1><2>     vss mul<0><1><2> mul_temp<0><1><2> vss MUL_SW
Smul_sw_inv_<0><1><2> vdd mul<0><1><2> mul_temp<0><1><2> vss MUL_SW_INV
Cmul_temp_<0><1><2> mul_temp<0><1><2> vss 100p
Cmul_<0><1><2> mul<0><1><2> vss 100p
Emul_vcvs_<0><1><3> mul_temp_ideal<0><1><3> d<0><1> W<0><3> vss 1
Rmul_nonideal<0><1><3> mul_temp_ideal<0><1><3> mul_temp<0><1><3> 1
Smul_sw_<0><1><3>     vss mul<0><1><3> mul_temp<0><1><3> vss MUL_SW
Smul_sw_inv_<0><1><3> vdd mul<0><1><3> mul_temp<0><1><3> vss MUL_SW_INV
Cmul_temp_<0><1><3> mul_temp<0><1><3> vss 100p
Cmul_<0><1><3> mul<0><1><3> vss 100p
Emul_vcvs_<0><2><0> mul_temp_ideal<0><2><0> d<0><2> W<0><0> vss 1
Rmul_nonideal<0><2><0> mul_temp_ideal<0><2><0> mul_temp<0><2><0> 1
Smul_sw_<0><2><0>     vss mul<0><2><0> mul_temp<0><2><0> vss MUL_SW
Smul_sw_inv_<0><2><0> vdd mul<0><2><0> mul_temp<0><2><0> vss MUL_SW_INV
Cmul_temp_<0><2><0> mul_temp<0><2><0> vss 100p
Cmul_<0><2><0> mul<0><2><0> vss 100p
Emul_vcvs_<0><2><1> mul_temp_ideal<0><2><1> d<0><2> W<0><1> vss 1
Rmul_nonideal<0><2><1> mul_temp_ideal<0><2><1> mul_temp<0><2><1> 1
Smul_sw_<0><2><1>     vss mul<0><2><1> mul_temp<0><2><1> vss MUL_SW
Smul_sw_inv_<0><2><1> vdd mul<0><2><1> mul_temp<0><2><1> vss MUL_SW_INV
Cmul_temp_<0><2><1> mul_temp<0><2><1> vss 100p
Cmul_<0><2><1> mul<0><2><1> vss 100p
Emul_vcvs_<0><2><2> mul_temp_ideal<0><2><2> d<0><2> W<0><2> vss 1
Rmul_nonideal<0><2><2> mul_temp_ideal<0><2><2> mul_temp<0><2><2> 1
Smul_sw_<0><2><2>     vss mul<0><2><2> mul_temp<0><2><2> vss MUL_SW
Smul_sw_inv_<0><2><2> vdd mul<0><2><2> mul_temp<0><2><2> vss MUL_SW_INV
Cmul_temp_<0><2><2> mul_temp<0><2><2> vss 100p
Cmul_<0><2><2> mul<0><2><2> vss 100p
Emul_vcvs_<0><2><3> mul_temp_ideal<0><2><3> d<0><2> W<0><3> vss 1
Rmul_nonideal<0><2><3> mul_temp_ideal<0><2><3> mul_temp<0><2><3> 1
Smul_sw_<0><2><3>     vss mul<0><2><3> mul_temp<0><2><3> vss MUL_SW
Smul_sw_inv_<0><2><3> vdd mul<0><2><3> mul_temp<0><2><3> vss MUL_SW_INV
Cmul_temp_<0><2><3> mul_temp<0><2><3> vss 100p
Cmul_<0><2><3> mul<0><2><3> vss 100p
Emul_vcvs_<0><3><0> mul_temp_ideal<0><3><0> d<0><3> W<0><0> vss 1
Rmul_nonideal<0><3><0> mul_temp_ideal<0><3><0> mul_temp<0><3><0> 1
Smul_sw_<0><3><0>     vss mul<0><3><0> mul_temp<0><3><0> vss MUL_SW
Smul_sw_inv_<0><3><0> vdd mul<0><3><0> mul_temp<0><3><0> vss MUL_SW_INV
Cmul_temp_<0><3><0> mul_temp<0><3><0> vss 100p
Cmul_<0><3><0> mul<0><3><0> vss 100p
Emul_vcvs_<0><3><1> mul_temp_ideal<0><3><1> d<0><3> W<0><1> vss 1
Rmul_nonideal<0><3><1> mul_temp_ideal<0><3><1> mul_temp<0><3><1> 1
Smul_sw_<0><3><1>     vss mul<0><3><1> mul_temp<0><3><1> vss MUL_SW
Smul_sw_inv_<0><3><1> vdd mul<0><3><1> mul_temp<0><3><1> vss MUL_SW_INV
Cmul_temp_<0><3><1> mul_temp<0><3><1> vss 100p
Cmul_<0><3><1> mul<0><3><1> vss 100p
Emul_vcvs_<0><3><2> mul_temp_ideal<0><3><2> d<0><3> W<0><2> vss 1
Rmul_nonideal<0><3><2> mul_temp_ideal<0><3><2> mul_temp<0><3><2> 1
Smul_sw_<0><3><2>     vss mul<0><3><2> mul_temp<0><3><2> vss MUL_SW
Smul_sw_inv_<0><3><2> vdd mul<0><3><2> mul_temp<0><3><2> vss MUL_SW_INV
Cmul_temp_<0><3><2> mul_temp<0><3><2> vss 100p
Cmul_<0><3><2> mul<0><3><2> vss 100p
Emul_vcvs_<0><3><3> mul_temp_ideal<0><3><3> d<0><3> W<0><3> vss 1
Rmul_nonideal<0><3><3> mul_temp_ideal<0><3><3> mul_temp<0><3><3> 1
Smul_sw_<0><3><3>     vss mul<0><3><3> mul_temp<0><3><3> vss MUL_SW
Smul_sw_inv_<0><3><3> vdd mul<0><3><3> mul_temp<0><3><3> vss MUL_SW_INV
Cmul_temp_<0><3><3> mul_temp<0><3><3> vss 100p
Cmul_<0><3><3> mul<0><3><3> vss 100p
Emul_vcvs_<1><0><0> mul_temp_ideal<1><0><0> d<1><0> W<1><0> vss 1
Rmul_nonideal<1><0><0> mul_temp_ideal<1><0><0> mul_temp<1><0><0> 1
Smul_sw_<1><0><0>     vss mul<1><0><0> mul_temp<1><0><0> vss MUL_SW
Smul_sw_inv_<1><0><0> vdd mul<1><0><0> mul_temp<1><0><0> vss MUL_SW_INV
Cmul_temp_<1><0><0> mul_temp<1><0><0> vss 100p
Cmul_<1><0><0> mul<1><0><0> vss 100p
Emul_vcvs_<1><0><1> mul_temp_ideal<1><0><1> d<1><0> W<1><1> vss 1
Rmul_nonideal<1><0><1> mul_temp_ideal<1><0><1> mul_temp<1><0><1> 1
Smul_sw_<1><0><1>     vss mul<1><0><1> mul_temp<1><0><1> vss MUL_SW
Smul_sw_inv_<1><0><1> vdd mul<1><0><1> mul_temp<1><0><1> vss MUL_SW_INV
Cmul_temp_<1><0><1> mul_temp<1><0><1> vss 100p
Cmul_<1><0><1> mul<1><0><1> vss 100p
Emul_vcvs_<1><0><2> mul_temp_ideal<1><0><2> d<1><0> W<1><2> vss 1
Rmul_nonideal<1><0><2> mul_temp_ideal<1><0><2> mul_temp<1><0><2> 1
Smul_sw_<1><0><2>     vss mul<1><0><2> mul_temp<1><0><2> vss MUL_SW
Smul_sw_inv_<1><0><2> vdd mul<1><0><2> mul_temp<1><0><2> vss MUL_SW_INV
Cmul_temp_<1><0><2> mul_temp<1><0><2> vss 100p
Cmul_<1><0><2> mul<1><0><2> vss 100p
Emul_vcvs_<1><0><3> mul_temp_ideal<1><0><3> d<1><0> W<1><3> vss 1
Rmul_nonideal<1><0><3> mul_temp_ideal<1><0><3> mul_temp<1><0><3> 1
Smul_sw_<1><0><3>     vss mul<1><0><3> mul_temp<1><0><3> vss MUL_SW
Smul_sw_inv_<1><0><3> vdd mul<1><0><3> mul_temp<1><0><3> vss MUL_SW_INV
Cmul_temp_<1><0><3> mul_temp<1><0><3> vss 100p
Cmul_<1><0><3> mul<1><0><3> vss 100p
Emul_vcvs_<1><1><0> mul_temp_ideal<1><1><0> d<1><1> W<1><0> vss 1
Rmul_nonideal<1><1><0> mul_temp_ideal<1><1><0> mul_temp<1><1><0> 1
Smul_sw_<1><1><0>     vss mul<1><1><0> mul_temp<1><1><0> vss MUL_SW
Smul_sw_inv_<1><1><0> vdd mul<1><1><0> mul_temp<1><1><0> vss MUL_SW_INV
Cmul_temp_<1><1><0> mul_temp<1><1><0> vss 100p
Cmul_<1><1><0> mul<1><1><0> vss 100p
Emul_vcvs_<1><1><1> mul_temp_ideal<1><1><1> d<1><1> W<1><1> vss 1
Rmul_nonideal<1><1><1> mul_temp_ideal<1><1><1> mul_temp<1><1><1> 1
Smul_sw_<1><1><1>     vss mul<1><1><1> mul_temp<1><1><1> vss MUL_SW
Smul_sw_inv_<1><1><1> vdd mul<1><1><1> mul_temp<1><1><1> vss MUL_SW_INV
Cmul_temp_<1><1><1> mul_temp<1><1><1> vss 100p
Cmul_<1><1><1> mul<1><1><1> vss 100p
Emul_vcvs_<1><1><2> mul_temp_ideal<1><1><2> d<1><1> W<1><2> vss 1
Rmul_nonideal<1><1><2> mul_temp_ideal<1><1><2> mul_temp<1><1><2> 1
Smul_sw_<1><1><2>     vss mul<1><1><2> mul_temp<1><1><2> vss MUL_SW
Smul_sw_inv_<1><1><2> vdd mul<1><1><2> mul_temp<1><1><2> vss MUL_SW_INV
Cmul_temp_<1><1><2> mul_temp<1><1><2> vss 100p
Cmul_<1><1><2> mul<1><1><2> vss 100p
Emul_vcvs_<1><1><3> mul_temp_ideal<1><1><3> d<1><1> W<1><3> vss 1
Rmul_nonideal<1><1><3> mul_temp_ideal<1><1><3> mul_temp<1><1><3> 1
Smul_sw_<1><1><3>     vss mul<1><1><3> mul_temp<1><1><3> vss MUL_SW
Smul_sw_inv_<1><1><3> vdd mul<1><1><3> mul_temp<1><1><3> vss MUL_SW_INV
Cmul_temp_<1><1><3> mul_temp<1><1><3> vss 100p
Cmul_<1><1><3> mul<1><1><3> vss 100p
Emul_vcvs_<1><2><0> mul_temp_ideal<1><2><0> d<1><2> W<1><0> vss 1
Rmul_nonideal<1><2><0> mul_temp_ideal<1><2><0> mul_temp<1><2><0> 1
Smul_sw_<1><2><0>     vss mul<1><2><0> mul_temp<1><2><0> vss MUL_SW
Smul_sw_inv_<1><2><0> vdd mul<1><2><0> mul_temp<1><2><0> vss MUL_SW_INV
Cmul_temp_<1><2><0> mul_temp<1><2><0> vss 100p
Cmul_<1><2><0> mul<1><2><0> vss 100p
Emul_vcvs_<1><2><1> mul_temp_ideal<1><2><1> d<1><2> W<1><1> vss 1
Rmul_nonideal<1><2><1> mul_temp_ideal<1><2><1> mul_temp<1><2><1> 1
Smul_sw_<1><2><1>     vss mul<1><2><1> mul_temp<1><2><1> vss MUL_SW
Smul_sw_inv_<1><2><1> vdd mul<1><2><1> mul_temp<1><2><1> vss MUL_SW_INV
Cmul_temp_<1><2><1> mul_temp<1><2><1> vss 100p
Cmul_<1><2><1> mul<1><2><1> vss 100p
Emul_vcvs_<1><2><2> mul_temp_ideal<1><2><2> d<1><2> W<1><2> vss 1
Rmul_nonideal<1><2><2> mul_temp_ideal<1><2><2> mul_temp<1><2><2> 1
Smul_sw_<1><2><2>     vss mul<1><2><2> mul_temp<1><2><2> vss MUL_SW
Smul_sw_inv_<1><2><2> vdd mul<1><2><2> mul_temp<1><2><2> vss MUL_SW_INV
Cmul_temp_<1><2><2> mul_temp<1><2><2> vss 100p
Cmul_<1><2><2> mul<1><2><2> vss 100p
Emul_vcvs_<1><2><3> mul_temp_ideal<1><2><3> d<1><2> W<1><3> vss 1
Rmul_nonideal<1><2><3> mul_temp_ideal<1><2><3> mul_temp<1><2><3> 1
Smul_sw_<1><2><3>     vss mul<1><2><3> mul_temp<1><2><3> vss MUL_SW
Smul_sw_inv_<1><2><3> vdd mul<1><2><3> mul_temp<1><2><3> vss MUL_SW_INV
Cmul_temp_<1><2><3> mul_temp<1><2><3> vss 100p
Cmul_<1><2><3> mul<1><2><3> vss 100p
Emul_vcvs_<1><3><0> mul_temp_ideal<1><3><0> d<1><3> W<1><0> vss 1
Rmul_nonideal<1><3><0> mul_temp_ideal<1><3><0> mul_temp<1><3><0> 1
Smul_sw_<1><3><0>     vss mul<1><3><0> mul_temp<1><3><0> vss MUL_SW
Smul_sw_inv_<1><3><0> vdd mul<1><3><0> mul_temp<1><3><0> vss MUL_SW_INV
Cmul_temp_<1><3><0> mul_temp<1><3><0> vss 100p
Cmul_<1><3><0> mul<1><3><0> vss 100p
Emul_vcvs_<1><3><1> mul_temp_ideal<1><3><1> d<1><3> W<1><1> vss 1
Rmul_nonideal<1><3><1> mul_temp_ideal<1><3><1> mul_temp<1><3><1> 1
Smul_sw_<1><3><1>     vss mul<1><3><1> mul_temp<1><3><1> vss MUL_SW
Smul_sw_inv_<1><3><1> vdd mul<1><3><1> mul_temp<1><3><1> vss MUL_SW_INV
Cmul_temp_<1><3><1> mul_temp<1><3><1> vss 100p
Cmul_<1><3><1> mul<1><3><1> vss 100p
Emul_vcvs_<1><3><2> mul_temp_ideal<1><3><2> d<1><3> W<1><2> vss 1
Rmul_nonideal<1><3><2> mul_temp_ideal<1><3><2> mul_temp<1><3><2> 1
Smul_sw_<1><3><2>     vss mul<1><3><2> mul_temp<1><3><2> vss MUL_SW
Smul_sw_inv_<1><3><2> vdd mul<1><3><2> mul_temp<1><3><2> vss MUL_SW_INV
Cmul_temp_<1><3><2> mul_temp<1><3><2> vss 100p
Cmul_<1><3><2> mul<1><3><2> vss 100p
Emul_vcvs_<1><3><3> mul_temp_ideal<1><3><3> d<1><3> W<1><3> vss 1
Rmul_nonideal<1><3><3> mul_temp_ideal<1><3><3> mul_temp<1><3><3> 1
Smul_sw_<1><3><3>     vss mul<1><3><3> mul_temp<1><3><3> vss MUL_SW
Smul_sw_inv_<1><3><3> vdd mul<1><3><3> mul_temp<1><3><3> vss MUL_SW_INV
Cmul_temp_<1><3><3> mul_temp<1><3><3> vss 100p
Cmul_<1><3><3> mul<1><3><3> vss 100p

* Scale and add
Emul_scale_<0><0><0> mul_scaled<0><0><0> vss mul<0><0><0> vss 0.005333333333333333
Esum_<0><0><0> sum<0><0><0> vss mul_scaled<0><0><0> vss 1
Emul_scale_<0><0><1> mul_scaled<0><0><1> vss mul<0><0><1> vss 0.010666666666666666
Esum_<0><0><1> sum<0><0><1> sum<0><0><0> mul_scaled<0><0><1> vss 1
Emul_scale_<0><0><2> mul_scaled<0><0><2> vss mul<0><0><2> vss 0.021333333333333333
Esum_<0><0><2> sum<0><0><2> sum<0><0><1> mul_scaled<0><0><2> vss 1
Emul_scale_<0><0><3> mul_scaled<0><0><3> vss mul<0><0><3> vss 0.042666666666666665
Esum_<0><0><3> sum<0><0><3> sum<0><0><2> mul_scaled<0><0><3> vss 1
Emul_scale_<0><1><0> mul_scaled<0><1><0> vss mul<0><1><0> vss 0.010666666666666666
Esum_<0><1><0> sum<0><1><0> sum<0><0><3> mul_scaled<0><1><0> vss 1
Emul_scale_<0><1><1> mul_scaled<0><1><1> vss mul<0><1><1> vss 0.021333333333333333
Esum_<0><1><1> sum<0><1><1> sum<0><1><0> mul_scaled<0><1><1> vss 1
Emul_scale_<0><1><2> mul_scaled<0><1><2> vss mul<0><1><2> vss 0.042666666666666665
Esum_<0><1><2> sum<0><1><2> sum<0><1><1> mul_scaled<0><1><2> vss 1
Emul_scale_<0><1><3> mul_scaled<0><1><3> vss mul<0><1><3> vss 0.08533333333333333
Esum_<0><1><3> sum<0><1><3> sum<0><1><2> mul_scaled<0><1><3> vss 1
Emul_scale_<0><2><0> mul_scaled<0><2><0> vss mul<0><2><0> vss 0.021333333333333333
Esum_<0><2><0> sum<0><2><0> sum<0><1><3> mul_scaled<0><2><0> vss 1
Emul_scale_<0><2><1> mul_scaled<0><2><1> vss mul<0><2><1> vss 0.042666666666666665
Esum_<0><2><1> sum<0><2><1> sum<0><2><0> mul_scaled<0><2><1> vss 1
Emul_scale_<0><2><2> mul_scaled<0><2><2> vss mul<0><2><2> vss 0.08533333333333333
Esum_<0><2><2> sum<0><2><2> sum<0><2><1> mul_scaled<0><2><2> vss 1
Emul_scale_<0><2><3> mul_scaled<0><2><3> vss mul<0><2><3> vss 0.17066666666666666
Esum_<0><2><3> sum<0><2><3> sum<0><2><2> mul_scaled<0><2><3> vss 1
Emul_scale_<0><3><0> mul_scaled<0><3><0> vss mul<0><3><0> vss 0.042666666666666665
Esum_<0><3><0> sum<0><3><0> sum<0><2><3> mul_scaled<0><3><0> vss 1
Emul_scale_<0><3><1> mul_scaled<0><3><1> vss mul<0><3><1> vss 0.08533333333333333
Esum_<0><3><1> sum<0><3><1> sum<0><3><0> mul_scaled<0><3><1> vss 1
Emul_scale_<0><3><2> mul_scaled<0><3><2> vss mul<0><3><2> vss 0.17066666666666666
Esum_<0><3><2> sum<0><3><2> sum<0><3><1> mul_scaled<0><3><2> vss 1
Emul_scale_<0><3><3> mul_scaled<0><3><3> vss mul<0><3><3> vss 0.3413333333333333
Esum_<0><3><3> sum<0><3><3> sum<0><3><2> mul_scaled<0><3><3> vss 1
Emul_scale_<1><0><0> mul_scaled<1><0><0> vss mul<1><0><0> vss 0.005333333333333333
Esum_<1><0><0> sum<1><0><0> sum<0><3><3> mul_scaled<1><0><0> vss 1
Emul_scale_<1><0><1> mul_scaled<1><0><1> vss mul<1><0><1> vss 0.010666666666666666
Esum_<1><0><1> sum<1><0><1> sum<1><0><0> mul_scaled<1><0><1> vss 1
Emul_scale_<1><0><2> mul_scaled<1><0><2> vss mul<1><0><2> vss 0.021333333333333333
Esum_<1><0><2> sum<1><0><2> sum<1><0><1> mul_scaled<1><0><2> vss 1
Emul_scale_<1><0><3> mul_scaled<1><0><3> vss mul<1><0><3> vss 0.042666666666666665
Esum_<1><0><3> sum<1><0><3> sum<1><0><2> mul_scaled<1><0><3> vss 1
Emul_scale_<1><1><0> mul_scaled<1><1><0> vss mul<1><1><0> vss 0.010666666666666666
Esum_<1><1><0> sum<1><1><0> sum<1><0><3> mul_scaled<1><1><0> vss 1
Emul_scale_<1><1><1> mul_scaled<1><1><1> vss mul<1><1><1> vss 0.021333333333333333
Esum_<1><1><1> sum<1><1><1> sum<1><1><0> mul_scaled<1><1><1> vss 1
Emul_scale_<1><1><2> mul_scaled<1><1><2> vss mul<1><1><2> vss 0.042666666666666665
Esum_<1><1><2> sum<1><1><2> sum<1><1><1> mul_scaled<1><1><2> vss 1
Emul_scale_<1><1><3> mul_scaled<1><1><3> vss mul<1><1><3> vss 0.08533333333333333
Esum_<1><1><3> sum<1><1><3> sum<1><1><2> mul_scaled<1><1><3> vss 1
Emul_scale_<1><2><0> mul_scaled<1><2><0> vss mul<1><2><0> vss 0.021333333333333333
Esum_<1><2><0> sum<1><2><0> sum<1><1><3> mul_scaled<1><2><0> vss 1
Emul_scale_<1><2><1> mul_scaled<1><2><1> vss mul<1><2><1> vss 0.042666666666666665
Esum_<1><2><1> sum<1><2><1> sum<1><2><0> mul_scaled<1><2><1> vss 1
Emul_scale_<1><2><2> mul_scaled<1><2><2> vss mul<1><2><2> vss 0.08533333333333333
Esum_<1><2><2> sum<1><2><2> sum<1><2><1> mul_scaled<1><2><2> vss 1
Emul_scale_<1><2><3> mul_scaled<1><2><3> vss mul<1><2><3> vss 0.17066666666666666
Esum_<1><2><3> sum<1><2><3> sum<1><2><2> mul_scaled<1><2><3> vss 1
Emul_scale_<1><3><0> mul_scaled<1><3><0> vss mul<1><3><0> vss 0.042666666666666665
Esum_<1><3><0> sum<1><3><0> sum<1><2><3> mul_scaled<1><3><0> vss 1
Emul_scale_<1><3><1> mul_scaled<1><3><1> vss mul<1><3><1> vss 0.08533333333333333
Esum_<1><3><1> sum<1><3><1> sum<1><3><0> mul_scaled<1><3><1> vss 1
Emul_scale_<1><3><2> mul_scaled<1><3><2> vss mul<1><3><2> vss 0.17066666666666666
Esum_<1><3><2> sum<1><3><2> sum<1><3><1> mul_scaled<1><3><2> vss 1
Emul_scale_<1><3><3> mul_scaled<1><3><3> vss mul<1><3><3> vss 0.3413333333333333
Esum_<1><3><3> sum<1><3><3> sum<1><3><2> mul_scaled<1><3><3> vss 1

* Single-ended to differential conversion
Ediff_pos diff_pos vss sum<1><3><3> vdd 1
Ediff_neg diff_neg vss sum<1><3><3> vdd -1
Sdiff_outp1 outp vss    sum<1><3><3> vss DIFF_SW_INV
Sdiff_outp2 outp diff_pos sum<1><3><3> vss DIFF_SW
Sdiff_outn1 outn diff_neg sum<1><3><3> vss DIFF_SW_INV
Sdiff_outn2 outn vss    sum<1><3><3> vss DIFF_SW

* Debug output
Rdebug z_debug mul<1><3><3> 0.1

* End subcircuit for my_mac
.ends

